US05286902
A solution of 0.20 g 2-methoxy-6-isopropenylnaphthalene and 0.12 g selenium dioxide (SeO2) in 10 ml methylene chloride was heated at reflux for 22 hours. The cooled solution was then washed with 10 ml 20% (by weight) sodium hydroxide (NaOH) after adding 40 ml ethylene dichloride (EDC). The organic layer was dried over MgSO4, filtered, and concentrated to give an oil which was purified on a 2×17 cm silica (SiO2) column using a 5 to 1 by volume solution of heptane and ethyl acetate. The product containing fractions were combined and concentrated to give 2-(6-methoxy-2-naphthyl)prop-2-en-1-ol.

reactant | 2-methoxy-6-isopropenylnaphthalene | 0.20 g | COC1=CC2=CC=C(C=C2C=C1)C(=C)C | C14H14O
reactant | selenium dioxide | 0.12 g | [Se](=O)=O | O2Se
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(6-methoxy-2-naphthyl)prop-2-en-1-ol | COC=1C=C2C=CC(=CC2=CC1)C(CO)=C | C14H14O2
